Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest Pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ year old from ___ (flew in today), with
obesity and anxiety, who presented with midsternal chest pain x5
hours.

Pt reports 1 week of dyspnea on minimal exertion, a symptom she
has not had before. She then developed acute onset chest 
pressure
("like someone is sitting on my chest") occurring earlier in the
day while getting onto a bus. Today, she initially thought it 
was
anxiety and took her Buspirone 10 mg PRN, though this did not
help. The substernal chest pressure continued to worsen and was
associated with shortness of breath and diaphoresis. She 
endorses
radiation to the back of her neck but no where else. Reports 
lack
of appetite today which is unusual for her, though without
nausea. Otherwise, she denies orthopnea, PND, 
presyncope/syncope,
lower extremity swelling, palpitations or fevers, and symptoms
are not related to positional changes. She has no history of
migraine headaches or ___ phenomenon. Notably, she does
report a similar episode of chest pressure in ___, though this
only lasted 60 seconds and work up at that time was unrevealing. 


In terms of her risk factors: she has no diagnosis known
diagnosis of diabetes, hypertension or hyperlipidemia. She is
obese, as noted above, and reports an 80-100 lb weight gain 
since
___. She does not drink alcohol, smoke cigarettes or use other
recreational drugs. Her family history is remarkable for a 
mother
with atrial fibrillation and a pacemaker, a brother with a 
"valve
problem" and a sister on warfarin for a ___ clot due to a
genetic hypercoagulable disorder; she too has a gene mutation 
for
hypercoagulability but has never had a ___ clot.  

Prior to arrival to the ED, the patient took two baby aspirins
for a total of 162 mg. 

In the ED, she was afebrile with a normal heart rate and ___
pressure of 81 and 129/76, respectively. She was satting well on
room air. Her initial ECG was concerning for a STEMI, though
repeat ECGs were markedly improved despite persistence of the
chest pressure. CXR was normal. Labs were unremarkable, 
including
a normal serum chemistry, CBC, and coags. Troponin was negative
x1, CK-MB flat and negative d-dimer. She was then started on a
heparin drip, given an additional 162 mg of Aspirin and received
Atorvastatin 80 mg. She was also given SLN x1 with no change in
chest pressure though subsequently developed a headache. Her
___ pressure also dropped from 135/61 to 115/78. Cardiology 
was
consulted earlier in the course and recommended ruling out a
___ clot with a d-dimer (as above) and admission to cardiology
for further work up; she did not go urgently to cath lab given
the negative troponin and resolution. Reportedly, a bedside ECHO
was also performed and her RV did not appear enlarged. 

- Vitals on transfer: 74, 132/61, 16, 97% RA

On the floor, pt continues to have chest pressure and a feeling
where she cannot catch her breath. She is very tired and 
somewhat
anxious.

 
Past Medical History:
1. CARDIAC RISK FACTORS: 
- obesity
- no known dx of DM, HTN, HLD

2. CARDIAC HISTORY: none

3. OTHER PAST MEDICAL HISTORY
- Stage II melanoma s/p resection
- MTHFR gene
- Genetic mutation for hypercoagulability
- Anxiety
- Chiari malformation type I

 
Social History:
___
Family History:
Mother: atrial fibrillation and a pacemaker
Brother: "valve problem"
Sister: ___ clot (on warfarin) ___ genetic hypercoagulable
disorder
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VS: 24 HR Data (last updated ___ @ 341)
    Temp: 98.2 (Tm 98.2), BP: 101/67, HR: 69, RR: 18, O2 sat:
96%, O2 delivery: RA, Wt: 221.78 lb/100.6 kg  
Gen: NAD, lying flat in bed, fatigued
HEENT: dry lips
CV: RRR, S1/S2, no murmurs
PULM: CTAB
GI: obese, soft, NT/ND
Ext: wwp, no cyanosis, clubbing, or edema
Pulses: 2+ radial pulses bilaterally
Neuro: Alert, moving all 4 extremities with purpose, face
symmetric

DISCHARGE PHYSICAL EXAM:
========================
Gen: NAD, sitting on her bed, resting comfortably
CV: RRR, S1/S2, no murmurs
PULM: normal work of breathing, CTAB
GI: obese, soft, NT/ND
Ext: wwp, no cyanosis, clubbing, or edema
Pulses: 2+ radial pulses bilaterally
Neuro: Alert, moving all 4 extremities with purpose, face
symmetric

 
Pertinent Results:
ADMISSION LABS:
===============
___ 12:23AM ___ WBC-8.6 RBC-4.59 Hgb-13.1 Hct-41.0 MCV-89 
MCH-28.5 MCHC-32.0 RDW-14.7 RDWSD-47.8* Plt ___
___ 12:23AM ___ Neuts-62.6 ___ Monos-7.7 Eos-1.0 
Baso-0.8 Im ___ AbsNeut-5.37 AbsLymp-2.37 AbsMono-0.66 
AbsEos-0.09 AbsBaso-0.07
___ 12:23AM ___ Plt ___
___ 12:23AM ___ ___ PTT-27.3 ___
___ 12:23AM ___ Glucose-115* UreaN-17 Creat-1.1 Na-140 
K-4.3 Cl-103 HCO3-26 AnGap-11
___ 12:23AM ___ ALT-19 AST-27 LD(LDH)-262* CK(CPK)-125 
AlkPhos-85 TotBili-0.3
___ 12:23AM ___ Albumin-4.5 Calcium-9.4 Phos-3.7 Mg-2.3 
Cholest-163
___ 04:12AM ___ %HbA1c-5.5 eAG-111
___ 12:23AM ___ Triglyc-71 HDL-60 CHOL/HD-2.7 LDLcalc-89
___ 12:23AM ___ TSH-2.4
___ 07:50AM ___ CRP-5.0

IMAGING/STUDIES:
===============
TTE (___)
CONCLUSION: The left atrial volume index is mildly increased. 
The estimated right atrial pressure is ___ mmHg. There is normal 
left ventricular wall thickness with a normal cavity size. There 
is normal
regional and global left ventricular systolic function. The 
visually estimated left ventricular ejection fraction is 55-60%. 
Left ventricular cardiac index is normal (>2.5 L/min/m2). There 
is no resting left
ventricular outflow tract gradient. Tissue Doppler suggests a 
normal left ventricular filling pressure (PCWP less than 
12mmHg). Normal right ventricular cavity size with normal free 
wall motion. The aortic sinus diameter is normal for gender with 
mildly dilated ascending aorta. The aortic valve leaflets (3) 
appear structurally normal. There is no aortic valve stenosis. 
There is no aortic regurgitation. The mitral valve leaflets 
appear structurally normal with no mitral valve prolapse. There 
is trivial mitral regurgitation. The pulmonic valve leaflets are 
normal. The tricuspid valve leaflets appear structurally normal. 
There is physiologic tricuspid regurgitation. The estimated 
pulmonary artery systolic pressure is normal. There is no 
pericardial effusion.
IMPRESSION: Normal biventricular cavity sizes and 
regional/global biventricular systolic function. No valvular 
pathology or pathologic flow identified. Normal estimated 
pulmonary artery systolic pressure. Dilated ascending aorta.

CXR (___)
The heart size is normal.  The mediastinal and hilar contours 
are
unremarkable.  The lungs are clear.  No pleural effusion or 
pneumothorax.
IMPRESSION: No acute cardiopulmonary abnormality.

EKG ___, 00:06:48)
Sinus rhythm @___ ms, QRS 85 ms, QTc ___levation in leads II, III

EKG ___, 00:22:38)
Sinus rhythm @ ___ ms, QRS 89 ms, QTc ___levation in leads II, III no longer present

EKG ___, 00:28:51)
Sinus rhythm @ ___ ms, QRS 84 ms, QTc 449 ms
___ left atrial enlargement

DISCHARGE LABS:
===============
___ 07:50AM ___ WBC-5.7 RBC-4.28 Hgb-12.1 Hct-38.7 MCV-90 
MCH-28.3 MCHC-31.3* RDW-14.8 RDWSD-48.6* Plt ___
___ 07:50AM ___ ___ PTT-46.5* ___
___ 07:50AM ___ Glucose-98 UreaN-20 Creat-0.9 Na-145 
K-4.1 Cl-108 HCO3-27 AnGap-10
___ 12:23AM ___ cTropnT-<0.01
___ 07:50AM ___ cTropnT-<0.01
___ 07:50AM ___ Calcium-9.3 Phos-3.9 Mg-2.2
 
Brief Hospital Course:
SUMMARY STATEMENT:
==================
Ms ___ is a ___ with PMHx anxiety who presented with several 
hours of substernal chest pain associated with shortness of 
breath. She had negative biomarkers and a nonischemic EKG; her 
pain improved with a combination of GI cocktail, heat packs, and 
ice packs. She felt somewhat improved at discharge, but 
requested to leave to be closer to her primary physician and 
manage her pain at home.

ACTIVE ISSUES:
==============
# SUBSTERNAL CHEST PAIN and
# DYSPNEA due to 
# POSSIBLE COSTOCHONDRITIS/MUSCULAR STRAIN:
Presented with 4d of gradual onset chest pain in the setting of 
a recent workout on ___, acutely worsened 5hrs PTA in the 
setting of getting onto a bus. She initially thought it was 
anxiety, but her symptoms were unresolved with PRN buspirone for 
anxiety. As such, she presented to the ___ ED for further 
evaluation. 

Initial EKG with ST elevations in II/III/aVF and reciprocal ST 
depression in AVR; however, these findings were resolved upon 
repeat EKG (15min later) making true STEMI unlikely. Her 
subsequent EKG's were only notable for first-degree AV delay. 
Bedside TTE without evidence of right heart strain. Pt was made 
NPO, started on heparin gtt, and admitted for workup of possible 
ischemic chest pain.

Here, her workup was notable for negative troponins x2; normal 
D-dimer; normal CRP; formal TTE notable only for a mildly 
dilated ascending aorta. Pt's symptoms initially managed as 
pericarditis, with 975mg aspirin. As this did not provide 
relief, she was then managed for musculoskeletal strain and GERD 
with heat/ice packs and GI cocktail. The combination of heat/ice 
and GI cocktail improved the symptoms to a manageable ___ (from 
___ on arrival). Given her improvement in symptoms, as well as 
desire to return home, patient was discharged with PO PPI BID 
and encouraged to follow up with her primary provider.

Exact etiology of chest pain during this hospital stay is 
unclear. Less likely true myocardial injury given 
quickly-changing EKG, negative troponins, and no wall motion 
abnormalities on echocardiogram. Likely some combination of 
costochondritis/muscular strain. No obvious viral prodrome to 
suggest pericarditis, though Pt's symptoms do worsen when she 
leans forward. 
[ ] Pantoprazole 40 mg Daily
[ ] TTE showing mildly dilated ascending aorta (4cm, normal for 
females < 3.6). She should have a follow-up echocardiogram in ___ 
year to evaluate for progression of the ascending aortic 
dilatation. Patient given a copy of her TTE findings.

CHRONIC/STABLE ISSUES:
# HISTORY OF ANXIETY:
-Home buspirone PRN:anxiety on discharge

# HISTORY OF MTHFR GENE:
-Pt should continue her home Vitamin D, B12, and B6 as she was 
previously taking them

# HISTORY OF CONSTIPATION:
-Home miralax

TRANSITIONAL ISSUES:
====================
#CODE: Full, confirmed
#CONTACT: Husband, ___ (___)

[ ] ___ CHANGES:
-Added: Pantoprazole 40mg PO BID

[ ] FOLLOW UP IMAGING:
-Pt with findings of mildly dilated ascending aorta (4cm, normal 
for females < 3.6). She should have a follow-up echocardiogram 
in ___ year to evaluate for progression of the ascending aortic 
dilatation. Patient given a copy of her TTE findings.

[ ] ONGOING WORKUP OF CHEST PAIN:
-Exact etiology of chest pain during this patient's 
hospitalization unclear. Most likely due to muscular strain, but 
would favor evaluation for other sources of non-cardiac chest 
pain (including gastroenterologic, musculoskeletal, pulmonary, 
and other).
-Possibility of Prinzmetal's angina was raised given rapid 
change in EKG findings. Should patient develop similar symptoms 
to those that brought her to the hospital, please encourage 
presentation to the ED for further evaluation and risk 
stratification for ACS.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. BusPIRone 10 mg PO PRN anxiety 
2. Vitamin D 1000 UNIT PO DAILY 
3. Cyanocobalamin 250 mcg PO DAILY 
4. Pyridoxine 100 mg PO DAILY 
5. Magnesium Citrate 150 mL PO DAILY anxiety 
6. Polyethylene Glycol 17 g PO DAILY:PRN Constipation - First 
Line 

 
Discharge Medications:
1.  Pantoprazole 40 mg PO Q12H 
Take twice daily for 1 month, then daily until you speak with 
your doctor. 
RX *pantoprazole 40 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0 
2.  BusPIRone 10 mg PO PRN anxiety  
3.  Cyanocobalamin 250 mcg PO DAILY 
You did not know the dosage of this medication, but should 
continue it.  
4.  Magnesium Citrate 150 mL PO DAILY anxiety  
5.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation - First 
Line  
6.  Pyridoxine 100 mg PO DAILY  
7.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
Atypical chest pain, musculoskeletal versus pericarditis

SECONDARY DIAGNOSES:
History of anxiety
History of methylenetetrahydrofolate reductase

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms ___,

It was a pleasure caring for you at the ___ 
___.

WHY WAS I SEEN IN THE HOSPITAL?
-You were having chest pain.

WHAT HAPPENED WHEN I WAS IN THE HOSPITAL?
-We looked at your heart with an ultrasound and EKG.  Based on 
these studies, we saw NO evidence of damage to your heart.
-We gave you some medicines to help with pain.  We gave you heat 
and ice, which also helped with the pain.
-You wanted to go home to start feeling better.

WHAT SHOULD I DO WHEN I GET HOME?
-Please take your medicines as prescribed, including your new 
medicine to help with stomach acid.
-Please use heat and ice three times a day (for ___ minutes at 
a time) to possibly help relax muscles around your chest.
-Please make a follow up appointment with your primary care 
doctor in the next 2 weeks.  Please let them know you were 
hospitalized for chest pain.

We wish you the best,
Your ___ Care Team
 
Followup Instructions:
___